US07223776B2
2-(5-{[(2,3-Dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-methyl}-3,6-dihydro-2H-pyridin-1-yl)-1-(6-methoxy-quinolin-4-yl)-ethanol
A solution of (2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-(1,2,5,6-tetrahydro-pyridin-3-ylmethyl)-amine (0.06 g, 0.23 mmol) and 6-methoxy-4-oxiranylquinoline (0.06 g, 0.29 mmol) in EtOH (2 ml) was heated at 80° C. for 14 hours. The reaction mixture was concentrated and the residue was purified by chromatography on silica gel (DCM/MeOH 9/1).

reactant | (2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-(1,2,5,6-tetrahydro-pyridin-3-ylmethyl)-amine | 0.23 mmol, 0.06 g | O1CCOC2=C1C=CC(=C2)CNCC=2CNCCC2 | C15H20N2O2
reactant | 6-methoxy-4-oxiranylquinoline | 0.29 mmol, 0.06 g | COC=1C=C2C(=CC=NC2=CC1)C1OC1 | C12H11NO2
solvent | EtOH | 2 ml | CCO | C2H6O
product | 2-(5-{[(2,3-Dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-methyl}-3,6-dihydro-2H-pyridin-1-yl)-1-(6-methoxy-quinolin-4-yl)-ethanol | O1CCOC2=C1C=CC(=C2)CNCC2=CCCN(C2)CC(O)C2=CC=NC1=CC=C(C=C21)OC | C27H31N3O4
